US06015827
3-(4-Bromobenzyloxy)benzamide (Comoound NU1014)
To 3-hydroxybenzamide (2.0 mM) under nitrogen was added anhydrous acetonitrile (20 ml), potassium carbonate (2.0 mM), and p-bromobenzyl bromide (2.0 mM). The mixture was refluxed for 3 hours, and the progress of the reaction monitored by TLC. The excess solvent was removed under vacuum, until dry, and the title compound was recrystallised from hot dichloromethane (minimum amount). A white crystalline solid was isolated and dried. Melting point: 160-161° C.; Infrared data: cm-1 : KBr disc: 3323; 3146; 1670; 1622. 1H NMR: d6DMSO: δ=5.26 (s; 2H; CH2); 7.3 (dd; 1H: H4); 7.49-7.75 (m, 9H; PhBr; NH2 ; PhO); 13C NMR: d6DMSO: δ=114.031; 118.123; 120.402; 121.295; 129.704; 130.107; 131.690; 136.094; 136.723; 158.371; 167.843. Mass spectra: m/z: EI: 307 (M+1); 262; 212; 169 (100%) 101;90. Elemental analysis: Expect C: 55.26%; H: 3.29%; N: 4.61%; Found C: 54.61%; H: 3.66%; N: 4.47%.

reactant | 3-hydroxybenzamide | 2.0 mM | OC=1C=C(C(=O)N)C=CC1 | C7H7NO2
reactant | potassium carbonate | 2.0 mM | C([O-])([O-])=O.[K+].[K+]
reactant | p-bromobenzyl bromide | 2.0 mM | BrC1=CC=C(CBr)C=C1 | C7H6Br2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 3-(4-Bromobenzyloxy)benzamide | BrC1=CC=C(COC=2C=C(C(=O)N)C=CC2)C=C1 | C14H12BrNO2
